US06660744B1
A 20% dispersion of pyridinium chlorochromate in basic alumina (50 g) was added to a solution of tert-butyl N-[2-(hydroxymethyl)phenyl]carbamate (11.0 g, 0.0493 mol) in anhydrous chloroform and the resulting suspension was stirred under an atmosphere of nitrogen at ambient temperature for 1 hour. Additional 16 g of a 20% dispersion of pyridinium chlorochromate in basic alumina was added and the stirring was continued for 45 min. At this point in time, additional 15 g of of 20% dispersion of pyridinium chlorochromate in basic alumina was added and the stirring was continued for 25 min. The resulting suspension was filtered through a silica gel pad, the filtrate was concentrated under reduced pressure and the residue purified by flash chromatography on silica using ethyl acetate/n-heptane (2:98) as mobile phase to yield tert-butyl N-(2-formylphenyl)carbamate (8.67 g, 0.0392 mol) as a white solid.

reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | tert-butyl N-[2-(hydroxymethyl)phenyl]carbamate | 0.0493 mol, 11.0 g | OCC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C12H17NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl N-(2-formylphenyl)carbamate | 0.0392 mol, 8.67 g | C(=O)C1=C(C=CC=C1)NC(OC(C)(C)C)=O | C12H15NO3
